US08497281B2
cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carbonitrile
Trifluoroacetic anhydride (0.4 mL) is added to a solution of cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid amide (140 mg) and triethylamine (0.6 mL) in dichloromethane (4 mL) chilled in an ice bath. The cooling bath is removed and the solution is stirred at room temperature for 3 h. Another portion of trifluoroacetic anhydride (0.4 mL) and triethylamine (0.6 mL) are then added and stirring is continued at 35° C. overnight. The solution is diluted with dichloromethane and washed with water and brine. After drying (MgSO4), the solvent is evaporated and the residue is chromatographed on silica gel (dichloromethane/methanol 20:1→1:1) to furnish the title compound as a yellowish solid. Yield: 50 mg (38% of theory); Mass spectrum (ESI+): m/z=357 [M+H]+.

reactant | Trifluoroacetic anhydride | 0.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid amide | 140 mg | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)C(=O)N | C22H22N4O2
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carbonitrile | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)C#N | C22H20N4O
